US04076936
t-Butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-[2-triphenylmethoxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate (syn isomer) (400 mg, 0.535 mmole) was treated with anisole (2 ml) and trifluoroacetic acid (8 ml) as described in Example 1(b) to give (6R,7S)-3-acetoxymethyl-7-[2-hydroxyimino-2-phenylacetamido]-7-methoxyceph-3-em-4-carboxylic acid (syn isomer) as an electrostatic white solid. (135 mg, 0.30 mmole). This acid was converted into the title compound by dissolving it in water containing sodium bicarbonate (25 mg, 0.298 mmole), filtering the solution and freeze-drying the filtrate to give the product as an amorphous solid (120 mg, 0.255 mmole, 51%), paper chromatography Rf 0.40 Rf/Rf cephaloram 0.78, λmax (pH6 buffer) 254 nm (ε 10,400).

reactant | t-Butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-[2-triphenylmethoxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate | 0.535 mmole, 400 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@]2(NC(C(C2=CC=CC=C2)=NOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)OC)=O | C42H41N3O8S
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (6R,7S)-3-acetoxymethyl-7-[2-hydroxyimino-2-phenylacetamido]-7-methoxyceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@@]2(OC)NC(C(C2=CC=CC=C2)=NO)=O)=O | C19H19N3O8S
